US04910318
(1) 4-Dimethylaminomethyl-5-isopropyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indol
A solution of 4-dimethylaminomethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole (1.00 g) in dry dimethylformamide (25 ml) is mixed with 50% sodium hydride (293 mg) under stirring and the mixture is allowed to stand at 40° C. for 1 hour. Then, the reaction mixture is mixed with a solution of isopropyl iodide (1.63 g) in dimethylformamide (2 ml) and kept at 40° C. for 2 hours and further for 20 hours after addition of the reagent. The reaction mixture is mixed with ether and ice water successively at under 5° C. and the ether layer is separated. The aqueous layer is further extracted with ether. The combined ether layers are extracted with a dilute hydrochloric acid solution. The extract is made alkaline and extracted with methylene chloride. The extract is washed with water, dried and evaporated to give the title compound (910 mg) as an oil: Yield 77.8%.

reactant | 4-dimethylaminomethyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indole | 1.00 g | CN(C)CC1CCSC2=C1NC=1C=CC=CC21 | C14H18N2S
reactant | sodium hydride | 293 mg | [H-].[Na+]
reactant | isopropyl iodide | 1.63 g | C(C)(C)I | C3H7I
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-Dimethylaminomethyl-5-isopropyl-2,3,4,5-tetrahydrothiopyrano[3,2-b]indol | 910 mg, Yield 77.8% | CN(C)CC1CCSC2=C1N(C=1C=CC=CC21)C(C)C | C17H24N2S
